US04337201
(S)-7-[[Ethoxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid
A mixture of 2.0 g of [ethoxy(4-phenylbutyl)phosphinyl]acetic acid and 1.1 g of carbonyldiimidazole in acetonitrile is stirred under argon at 0° C. for 1 hour and then treated with 1.9 g of triethylamine and 1.7 g of 1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, hydrochloride. After 4.5 hours the acetonitrile is stripped and the residue is partitioned between ethyl acetate and 1 N HCl. The organic phase is washed with brine, dried (MgSO4), and the solvent is stripped to give 3.2 g of the title compound as an oil.

reactant | [ethoxy(4-phenylbutyl)phosphinyl]acetic acid | 2.0 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)O | C14H21O4P
reactant | carbonyldiimidazole | 1.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 1.9 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid, hydrochloride | 1.7 g | Cl.S1CCSC12CNC(C2)C(=O)O
solvent | acetonitrile | C(C)#N | C2H3N
product | (S)-7-[[Ethoxy(4-phenylbutyl)phosphinyl]acetyl]-1,4-dithia-7-azaspiro[4.4]nonane-8-carboxylic acid | 3.2 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1CC2(SCCS2)C[C@H]1C(=O)O | C21H30NO5PS2
